US08138189B2
Step 3: 4-{3-Chloro-4-[2-hydroxy-1-methyl-2-(2-methyl-pyridin-4-yl)-ethyl]-phenoxy}-benzonitrile
A 1.6 M solution of n-BuLi in hexane (1.05 ml) was added to 4-bromo-2-methylpyridin (CAS Reg. No. 22282-99-1, 289 mg) in THF (5 ml) at −78° C. The deep red solution was stirred for 10 min. A solution of 4-[3-chloro-4-(1-methyl-2-oxo-ethyl)-phenoxy]-benzonitrile (400 mg) in THF (5 ml) was added at −78° C. The mixture was allowed to warm to 0° C. and stirred for 15 min at that temperature. Saturated aqueous NH4Cl solution was added and extracted with EtOAc. The combined organic layers were dried over Na2SO4 and then concentrated to an oil. The residue was purified by flash chromatography (SiO2, EtOAc/heptane 1:2) to give the title compound (200 mg) as a light yellow solid. MS (m/e)=379.2 [M+H+].

reactant | n-BuLi | [Li]CCCC
reactant | 4-bromo-2-methylpyridin | BrC1=CC(=NC=C1)C | C6H6BrN
reactant | 4-[3-chloro-4-(1-methyl-2-oxo-ethyl)-phenoxy]-benzonitrile | 400 mg | ClC=1C=C(OC2=CC=C(C#N)C=C2)C=CC1C(C=O)C | C16H12ClNO2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | hexane | 1.05 ml | CCCCCC | C6H14
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 4-{3-Chloro-4-[2-hydroxy-1-methyl-2-(2-methyl-pyridin-4-yl)-ethyl]-phenoxy}-benzonitrile | 200 mg | ClC=1C=C(OC2=CC=C(C#N)C=C2)C=CC1C(C(C1=CC(=NC=C1)C)O)C | C22H19ClN2O2
